US09061991B2
80.2 g (501 mmol) of diethyl malonate and 850 mL of toluene were added into a four-necked flask (2 L), and thereafter, 191.7 mL (489 mmol) of a 20% sodium ethoxide ethanol solution was added thereto as a base. The obtained mixture was stirred at room temperature for 1.5 hours, and 51.0 g of trans-1,4-dibromo-2-butene (238 mmol; a reagent manufactured by Aldrich) was then added to the reaction solution. The obtained mixture was stirred at room temperature for 3 hours, and 537 mL of a 1 M sodium hydroxide aqueous solution was then added to the reaction solution. The mixture was stirred for 1 hour, and an organic layer was then separated. A water layer was re-extracted with 173 mL of toluene, and organic layers were then gathered. The gathered organic layer was washed with 86 mL of water twice, and it was then dried over anhydrous sodium sulfate, followed by filtration. The obtained filtrate was concentrated at 45° C. under reduced pressure, so as to obtain 53.3 g of 1,1-di-ethoxycarbonyl-2-vinylcyclopropane in the form of a crude product of a light yellow oily substance. This crude product contained 49.7 g of 1,1-di-ethoxycarbonyl-2-vinylcyclopropane (yield: 98.5%). In addition, it contained no diethyl malonates.

reactant | diethyl malonate | 501 mmol, 80.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide ethanol | C(C)O.[O-]CC.[Na+]
reactant | trans-1,4-dibromo-2-butene | 51.0 g | BrC\C=C\CBr | C4H6Br2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | toluene | 850 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-di-ethoxycarbonyl-2-vinylcyclopropane | 53.3 g | C(C)OC(=O)C1(C(C1)C=C)C(=O)OCC | C11H16O4
